US08497264B2
A solution of (5-bromo-2-fluorophenyl)(2-fluoro-3-(methoxymethoxy)-6-(neopentyloxy)pyridin-4-yl)methanone (1.89 g, 4.25 mmol) in DCM (20 mL) was cooled to −78° C. under nitrogen atmosphere. Boron tribromide (1.0M in CH2Cl2; 4.25 mL, 4.25 mmol) was added drop wise and the reaction mixture was stirred for 5 min at rt. Aqueous, saturated ammonium chloride solution was added, followed by water and DCM. The organic phase was separated and dried over magnesium sulfate. The solvent was removed under reduced pressure to afford a yellow solid, which was dissolved in ACN (20.00 mL). Cesium carbonate (1.386 g, 4.25 mmol) was added in one portion and the reaction mixture was allowed to stir for 5 min. Water was added and the remaining light-yellow solid was filtered off and dried to afford 7-bromo-1-fluoro-3-(neopentyloxy)-5H-chromeno[2,3-c]pyridin-5-one (1.27 g).

reactant | (5-bromo-2-fluorophenyl)(2-fluoro-3-(methoxymethoxy)-6-(neopentyloxy)pyridin-4-yl)methanone | 4.25 mmol, 1.89 g | BrC=1C=CC(=C(C1)C(=O)C1=C(C(=NC(=C1)OCC(C)(C)C)F)OCOC)F | C19H20BrF2NO4
reactant | Boron tribromide | 4.25 mmol, 1.0M, 4.25 mL | B(Br)(Br)Br | BBr3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Cesium carbonate | 4.25 mmol, 1.386 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | ACN | 20.00 mL | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 7-bromo-1-fluoro-3-(neopentyloxy)-5H-chromeno[2,3-c]pyridin-5-one | 1.27 g | BrC=1C=C2C(C3=C(C(=NC(=C3)OCC(C)(C)C)F)OC2=CC1)=O | C17H15BrFNO3
